US06472397B1
To 80 ml of formic acid was added 28 ml of acetic anhydride at room temperature, and the mixture was stirred at 60° C. for 20 minutes. After stirring at room temperature for further 15 minutes, the reaction mixture was added dropwise to a solution of 4.2 g of 2-oxopiperazine in 400 ml of methylene chloride at 0° C. over a period of 1.25 hours, and the resulting mixture was stirred at 0° C. for further 30 minutes. The solvent was removed by distillation under reduced pressure, and the residue thus obtained was recrystallized from acetone/hexane to give 3.0 g (56%) of 1-formyl-3-oxopiperazine.

reactant | formic acid | 80 ml | C(=O)O | CH2O2
reactant | acetic anhydride | 28 ml | C(C)(=O)OC(C)=O | C4H6O3
reactant | 2-oxopiperazine | 4.2 g | O=C1NCCNC1 | C4H8N2O
solvent | methylene chloride | 400 ml | C(Cl)Cl | CH2Cl2
product | 1-formyl-3-oxopiperazine | 3.0 g, 56% | C(=O)N1CC(NCC1)=O | C5H8N2O2
